US08877163B2
The Synthetic Method of 1-cyano-cyclobutyl-carboxylic acid methyl ester, the Compound 1
To methyl cyanoacetate (10 g, 0.1 mol) under N2, N,N-dimethylformamide (DMF, 10 mL) was added at room temperature. After 10 min, the solution was added 1,8-diazabicyclo [5,4,0]undec-7-ene (DBU, 33.4 g, 0.22 mol) at 10-20° C., and then reacted 15 min at 50° C. The mixture was cooled to −5 to −10° C., 1,3-dibromopropane (20.4 g, 0.1 mol) in DMF (10 mL) added by syringe, reacted 15 min at room temperature, rose up to 70° C., and then reacted 30 min. The mixture was evaporated and the residue taken up in H2O and extracted with CHCl3 (3×50 mL). The chloroform phase was evaporated under reduced pressure. The compound 1 was purified by column chromatography (SiO2, hexane/acetone 8:1), yielding 8.74 g (62.81%). MS (ESI): m/z: 140.08 [M+H]+. Anal. Calcd (Found) for C7H9NO2: C, 60.42 (60.74); H, 6.52 (6.58); N, 10.07 (10.21). 1H NMR (D2O, 400 MHz), δ ((ppm): 3.84 (s, 3H, —OCH3), 2.73-2.63 (m, 4H, —C—CH2—CH2—CH2—), 2.17-2.32 (m, 2H, —C—CH2—CH2—CH2—). 13C NMR (D2O, 400 MHz), δ (ppm): 169.17, 128.11, 53.50, 39.38, 31.22, 17.18.

reactant | methyl cyanoacetate | 0.1 mol, 10 g | C(#N)CC(=O)OC | C4H5NO2
reactant | 1,8-diazabicyclo [5,4,0]undec-7-ene | 0.22 mol, 33.4 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 1,3-dibromopropane | 0.1 mol, 20.4 g | BrCCCBr | C3H6Br2
solvent | DMF | 10 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-cyano-cyclobutyl-carboxylic acid methyl ester | COC(=O)C1(CCC1)C#N | C7H9NO2
